wheatstone_bridge - fault test
V1 pos 0 DC 20
R1 pos mid1 98.706657
R3 mid1 0 203.870017
R2 pos mid2 149.490348
R4 mid2 0 6563.705322
Rg mid1 mid2 5.138722
.op
.control
run
print v(mid1) v(mid2) v(pos)
print @r1[i] @r3[i] @r2[i] @r4[i] @rg[i]
.endc
.end
